US06933304B2
[1-({3-[3-(5,6,7,8-tetrahydro-1,8-naphthyridin-2-yl)propyl]-1,2,4-oxadiazol-5-yl}methyl)cyclopentyl]acetic acid
A stirred mixture of (1Z)-N′-hydroxy-4-(5,6,7,8-tetrahydro-1,8-naphthyridin-2-yl)butanimidamide (100 mg, WO 99/30709), 3,3-tetramethyleneglutaric anhydride (80 mg, Aldrich) and 1,4-dioxane (2 mL, Aldrich) was heated to 100° C. for 16 hrs. The resulting mixture was purified by HPLC to provide the title compound as a gum. 1H (CD3OD) δ 1.68 (8H, m); 1.95 (2H, p); 2.13 (2H, p); 2.45 (2H, s); 2.80 (6H, m); 3.15 (2H, s); 3.50 (2H, t); 6.63 (1H, d);

reactant | (1Z)-N′-hydroxy-4-(5,6,7,8-tetrahydro-1,8-naphthyridin-2-yl)butanimidamide | 100 mg | O\N=C(\CCCC1=NC=2NCCCC2C=C1)/N | C12H18N4O
reactant | 3,3-tetramethyleneglutaric anhydride | 80 mg | C1CCC2(C1)CC(=O)OC(=O)C2 | C9H12O3
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | [1-({3-[3-(5,6,7,8-tetrahydro-1,8-naphthyridin-2-yl)propyl]-1,2,4-oxadiazol-5-yl}methyl)cyclopentyl]acetic acid | N1=C(C=CC=2CCCNC12)CCCC1=NOC(=N1)CC1(CCCC1)CC(=O)O | C21H28N4O3
